US06660744B1
tert-Butyl 4-(4-amino-3-{3-fluoro-4-[(3-toluidinocarbonyl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate (117 mg, 0.209 mmol) was suspended in acetone (7 mL) and cooled to 0° C. Aqueous hydrochloric acid (6N, 1.6 mL) was slowly added to the reaction mixture. The reaction mixture was warmed to room temperature then heated at 50° C. for 4 hours. Concentration of the reaction mixture under reduced pressure followed by trituration with dichloromethane (25 mL) afforded N-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-fluorophenyl}-N′-(3-methylphenyl)urea dihydrochloride salt as an off-white solid (111 mg, 0.241 mmol). HPLC-RT: 11.98 min. (flow rate: 1 mL/min λ=254 nm Gradient: 5% to 85% acetonitrile/0.1M aqueous ammonium acetate gradient over 20 min.; Deltapak C18, 300A, 5 μm, 150×3.9 mm column); m/z (MH+)=461.3.

reactant | tert-Butyl 4-(4-amino-3-{3-fluoro-4-[(3-toluidinocarbonyl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 0.209 mmol, 117 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NC=2C=C(C=CC2)C)F)C2CCN(CC2)C(=O)OC(C)(C)C | C29H33FN8O3
reactant | hydrochloric acid | 6N, 1.6 mL | Cl | ClH
reactant | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | acetone | 7 mL | CC(=O)C | C3H6O
product | N-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-fluorophenyl}-N′-(3-methylphenyl)urea dihydrochloride salt | 0.241 mmol, 111 mg | Cl.Cl.NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NC2=CC(=CC=C2)C)F)C2CCNCC2 | InChI=1S/C24H25FN8O.2ClH/c1-14-3-2-4-16(11-14)30-24(34)31-19-6-5-15(12-18(19)25)21-20-22(26)28-13-29-23(20)33(32-21)17-7-9-27-10-8-17;;/h2-6,11-13,17,27H,7-10H2,1H3,(H2,26,28,29)(H2,30,31,34);2*1H
